### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): pushforward of connected complexes

### PR DESCRIPTION
**Pull request by YaelDillies**
This is useful for proving functoriality of Tate cohomology, whose complex is defined as the connection of the homology and cohomology complexes.

From ClassFieldTheory

Co-authored-by: Edison Xie
Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Embedding/Connect.lean [hunk 1]
```diff
@@ -175,16 +176,66 @@ noncomputable def homologyIsoPos (n : ℕ) (m : ℤ)
...
+  | .negSucc 0, _, .refl _ => by simpa
+  | .negSucc (i + 1), _, .refl _ => fK.comm _ _
+
+@[simp] lemma map_id : h.map h (𝟙 K) (𝟙 L) (by simp) = 𝟙 _ := by ext (m | _ | m) <;> simp; rfl
+
+@[simp]
+lemma map_comp_map :
+    h.map h' fK fL f_comm ≫ h'.map h'' fK' fL' f_comm'
+     = h.map h'' (fK ≫ fK') (fL ≫ fL') (by simp [f_comm', reassoc_of% f_comm]) := by
+  ext (m | _ | m) <;> simp; rfl
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/Embedding/Connect.lean]: Is this the right direction? This seems to be in contradiction with the direction of `Functor.map_comp`.
Of course the inverse direction couldn't be tagged simp, so the question would be if we want this lemma to be tagged simp or not.

File: Mathlib/Algebra/Homology/Embedding/Connect.lean [hunk 2]
```diff
@@ -175,16 +176,66 @@ noncomputable def homologyIsoPos (n : ℕ) (m : ℤ)
...
+
+lemma homologyMap_map_of_eq_succ (n : ℕ) (m : ℤ) (hmn : m = n + 1)
+    [HasHomology h.cochainComplex m] [HasHomology L (n + 1)]
+    [HasHomology h'.cochainComplex m] [HasHomology L' (n + 1)] :
+    homologyMap (h.map h' fK fL f_comm) m =
+    (h.homologyIsoPos n m hmn).hom ≫ homologyMap fL (n + 1) ≫ (h'.homologyIsoPos n m hmn).inv := by
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/Embedding/Connect.lean]: Can you also fix `homologyIsoPos` as well so that this takes `NeZero n`? Thanks.

File: Mathlib/Algebra/Homology/Embedding/Connect.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: The reason why it's turned around is indeed because the other direction couldn't be simp. I think it's worth having *some* direction be simp, even if that direction isn't the one matching `Functor.map_comp`

File: Mathlib/Algebra/Homology/Embedding/Connect.lean [hunk 3]
```diff
@@ -160,31 +161,80 @@ def restrictionLEIso :
...
+    homologyMap (h.map h' fK fL f_comm) m =
+    (h.homologyIsoPos n m hmn).hom ≫ homologyMap fL n ≫ (h'.homologyIsoPos n m hmn).inv := by
+  rw [← cancel_mono (HomologicalComplex.homologyι ..)]
+  dsimp [homologyIsoPos]
+  simp only [homologyι_naturality, Category.assoc, restrictionHomologyIso_hom_homologyι,
+    homologyι_naturality_assoc, restrictionHomologyIso_inv_homologyι_assoc]
+  congr 1
+  rw [← cancel_epi (HomologicalComplex.pOpcycles ..)]
+  subst hmn
+  simp [ConnectData.map, -Int.natCast_add]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/Embedding/Connect.lean]:
```suggestion
  simp
```

File: Mathlib/Algebra/Homology/Embedding/Connect.lean [hunk 4]
```diff
@@ -160,31 +161,80 @@ def restrictionLEIso :
...
+    homologyMap (h.map h' fK fL f_comm) m =
+      (h.homologyIsoNeg n m hmn).hom ≫ homologyMap fK n ≫ (h'.homologyIsoNeg n m hmn).inv := by
+  rw [← cancel_mono (HomologicalComplex.homologyι ..)]
+  dsimp [homologyIsoNeg]
+  simp only [homologyι_naturality, Category.assoc, restrictionHomologyIso_hom_homologyι,
+    homologyι_naturality_assoc, restrictionHomologyIso_inv_homologyι_assoc]
+  congr 1
+  rw [← cancel_epi (HomologicalComplex.pOpcycles ..)]
+  obtain rfl : m = .negSucc n := hmn
+  simp [ConnectData.map, -Int.natCast_add]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/Embedding/Connect.lean]:
```suggestion
  simp
```

File: Mathlib/Algebra/Homology/Embedding/Connect.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: Could the `f_comm` assumption be wrapped in a typeclass `ConnectData.Compatible`, providing an instance `ConnectData.compatible_comp`, making this statement less cluttered and possibly `simp` in the "correct" direction?

**Comment by dagurtomas** [comment]
@YaelDillies could you also address my comment on `map_comp_map`?

File: Mathlib/Algebra/Homology/Embedding/Connect.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: No, this is not possible. I went as far as
```
/-- Morphisms `fK : K ⟶ K'`, `fL : L ⟶ L'` of cochain and chain complexes are compatible with
the connection data of `K` and `L` and `K'` and `L'` if they commute with the zero differentials.

This is exactly the necessary condition for the two morphisms to induce a morphism of connected
complexes. -/
class Compatible : Prop where
  zero_comp_d₀ : fK.f 0 ≫ h'.d₀ = h.d₀ ≫ fL.f 0 := by cat_disch

attribute [simp] Compatible.zero_comp_d₀

instance [h.Compatible h' fK fL] [h'.Compatible h'' fK' fL'] :
    h.Compatible h'' (fK ≫ fK') (fL ≫ fL') where
```
before Lean rightfully reminded me that this composition lemma cannot be an instance because `h'` can't be inferred from the conclusion

**Comment by YaelDillies** [comment]
Sorry, I was on mobile so didn't see it! Replied now

File: Mathlib/Algebra/Homology/Embedding/Connect.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: I see. I'm still not convinced that this should be a simp lemma at all, do you have evidence that this is a good simp lemma? Otherwise LGTM

Comment (YaelDillies) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: Does the fact that it's analogous to [`CategoryTheory.eqToHom_trans`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/EqToHom.html#CategoryTheory.eqToHom_trans) convince you?

Comment (dagurtomas) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: Not really. This comes from a project, right? Is this useful as a simp lemma there?

Comment (YaelDillies) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: In CFT, we have
```
@[simp]
lemma map_comp : h.map h'' (fK ≫ fK') (fL ≫ fL') (by simp [f_comm', reassoc_of% f_comm]) =
    h.map h' fK fL f_comm ≫ h'.map h'' fK' fL' f_comm'
```
which obviously never triggers. So I guess "no" is the answer

Comment (YaelDillies) [reply Mathlib/Algebra/Homology/Embedding/Connect.lean]: I still believe it should be simp on the grounds that it eliminates a free variable, but I've unsimped it for now

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
